US07199244B2
Preparation XVIII—1-[4-(tert-butyl-dimethyl-silanyloxy)-chroman-8-ylmethyl]-piperidine
NaBH(OAc)3 (3.86 g, 18.21 mmol) was added to a dichloroethane (30 mL) solution of 4-(tert-butyl-dimethyl-silanyloxy)-chroman-8-carbaldehyde (2.66 g, 9.10 mmol) and piperidine (2.70 mL, 27.31 mmol) at RT. After stirring for 1 h, the reaction was quenched with MeOH (10 mL) while the stirring was continued for 20 more min. The reaction was diluted with CH2Cl2 (200 mL) and washed with saturated NaHCO3 solution and brine. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo from heptane to provide the title compound.

reactant | NaBH(OAc)3 | 18.21 mmol, 3.86 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-chroman-8-carbaldehyde | 9.10 mmol, 2.66 g | C(C)(C)(C)[Si](OC1CCOC2=C(C=CC=C12)C=O)(C)C | C16H24O3Si
reactant | piperidine | 27.31 mmol, 2.70 mL | N1CCCCC1 | C5H11N
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | 1-[4-(tert-butyl-dimethyl-silanyloxy)-chroman-8-ylmethyl]-piperidine | C(C)(C)(C)[Si](OC1CCOC2=C(C=CC=C12)CN1CCCCC1)(C)C | C21H35NO2Si
